US08563550B2
2-(4-Fluoro-phenoxy)-5-iodo-imidazo[2,1-b][1,3,4]thiadiazole (0.15 g, 0.42 mmol) was suspended in 1,4-dioxane (1.5 mL) at room temperature and argon was bubbled into the mixture while dichlorobis(triphenylphosphine)palladium(II) (29 mg, 0.042 mmol), 4-acetamidophenylboronic acid (85 mg, 0.48 mmol), cesium carbonate (271 mg, 0.83 mmol) and water (1.5 mL) were added. The mixture was deoxygenated for 10 minutes and heated under microwave irradiation at 140° C. for 20 minutes. On cooling, the resulting suspension was diluted with dichloromethane (7 mL), adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.2:9.8 to 2:8). The residue obtained was treated with diethylether (7 mL) and filtered to give 66 mg of N-{4-[2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-acetamide as a white solid (43%).

reactant | 2-(4-Fluoro-phenoxy)-5-iodo-imidazo[2,1-b][1,3,4]thiadiazole | 0.42 mmol, 0.15 g | FC1=CC=C(OC2=NN3C(S2)=NC=C3I)C=C1 | C10H5FIN3OS
reactant | 4-acetamidophenylboronic acid | 0.48 mmol, 85 mg | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | cesium carbonate | 0.83 mmol, 271 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1.5 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.042 mmol, 29 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | diethylether | 7 mL | C(C)OCC | C4H10O
product | N-{4-[2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-acetamide | 66 mg, 43% | FC1=CC=C(OC2=NN3C(S2)=NC=C3C3=CC=C(C=C3)NC(C)=O)C=C1 | C18H13FN4O2S
